US05175166
1-Methyl-5-(1,3-oxathiolan-2-yl)pyrimidinium Iodide
5-(1,3-oxathiolan-2-yl)pyrimidine (0.780 g, 5.1 mmol) and acetonitrile (3 ml) are stirred under dry nitrogen in a bomb tube with rubber seal. Methyl iodide (0.7 ml, 11.30 mmol) is added, the bomb properly sealed, and stirring continued at room temperature overnight. This results in a yellow suspension which is vacuum-filtered to obtain yellow powdery crystals. The powder is put in a drying pistol to give 1.32 g (84%) yellow crystals. Recrystallization from ethanol gives fine crystals identified by 300 MHz nmr.

reactant | 5-(1,3-oxathiolan-2-yl)pyrimidine | 5.1 mmol, 0.780 g | O1C(SCC1)C=1C=NC=NC1 | C7H8N2OS
reactant | Methyl iodide | 11.30 mmol, 0.7 ml | CI | CH3I
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-Methyl-5-(1,3-oxathiolan-2-yl)pyrimidinium Iodide | 1.32 g, 84% | [I-].C[N+]1=CN=CC(=C1)C1OCCS1 | InChI=1S/C8H11N2OS.HI/c1-10-5-7(4-9-6-10)8-11-2-3-12-8;/h4-6,8H,2-3H2,1H3;1H/q+1;/p-1
